US07851474B2
B. 1-Benzoyl-4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazine (Compound 17)
Dissolve 1-cyclobutyl-4-(piperazin-1-ylacetyl)piperazine (32 mg, 0.12 mmol) and benzoic acid (17.6 mg, 0.14 mmol) in dry DMA (0.75 mL), TEA (0.033 mL, 0.24 mmol) and toluene (0.75 mL). Add a solution of DMC (41 mg, 27.3 mmol) in acetonitrile (1.2 mL). Heat the mixture at 50° C. for 3 h. Cool and concentrate. Partition the residue between EtOAc (10 mL) and 1 N NaOH (10 mL). Extract the organic phase and place directly on an SCX ion exchange resin cartridge. Wash the resin first with EtOAc (4 mL). Discard this wash. Second, wash the resin with EtOAC/MeOH/TEA (10/1/1). Collect this wash and evaporate to yield the title compound. 1H NMR (CDCl3). δ 7.41-7.39 (m, 5H), 6.89 (d, 1H), 3.86-3.78 (m, 2H), 3.63-3.57 (m, 4H), 3.44-3.40 (m, 2H), 3.23 (s, 2H), 2.74-2.66 (m, 1H), 2.6-2.43 (m, 4H) 2.33-2.26 (m, 4H), 2.08-2.00 (m, 2H), 1.90-1.84 (m, 2H), 1.76-1.70 (m, 2H); LC-MS (M+1) 371.02.

reactant | 1-cyclobutyl-4-(piperazin-1-ylacetyl)piperazine | 0.12 mmol, 32 mg | C1(CCC1)N1CCN(CC1)C(CN1CCNCC1)=O | C14H26N4O
reactant | benzoic acid | 0.14 mmol, 17.6 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | toluene | 0.75 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMA | 0.75 mL | CC(=O)N(C)C | C4H9NO
solvent | acetonitrile | 1.2 mL | C(C)#N | C2H3N
product | 1-Benzoyl-4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazine | C(C1=CC=CC=C1)(=O)N1CCN(CC1)CC(=O)N1CCN(CC1)C1CCC1 | C21H30N4O2
